US09376422B2
Step 1: Synthesis of methyl 5-bromo-3-[(2,2-difluoroethyl)(oxan-4-yl)amino]-2-methylbenzoate
A stirred solution of methyl 5-bromo-2-methyl-3-[(oxan-4-yl)amino]benzoate (500 mg, 1.5 mmol) in difluoroacetic acid (15 ml), was treated with sodium tetrahydroborate (1000 mg, 26 mmol) portionwise over 12 minutes. The reaction mixture was warmed to 50° C. and stirred for 4 hours. The reaction mixture was allowed to reach room temperature and then poured over ice (130 ml) and left for 5 minutes. The mixture was basified by the addition of 6M NaOH (aq) (35 ml) and the pH adjusted to 7 using 1M HCl (aq) (20 ml). The resulting suspension was allowed to stand until the solution was clear and the resulting solid collected by filtration and dried in-vacuo at 40° C. to give the title compound (572 mg, 96%) as a white solid. LC-MS 100%, m/z=391.9, 392.9, 393.9, 394.9; 1H NMR (500 MHz, Chloroform-d) δ ppm 7.79 (d, J=1.89 Hz, 1H) 7.44 (d, J=1.89 Hz, 1H) 5.44-5.71 (m, 1H) 4.00 (dd, J=11.51, 4.10 Hz, 2H) 3.91 (s, 3H) 3.41 (td, J=13.99, 4.18 Hz, 2H) 3.32 (t, J=11.27 Hz, 2H) 2.97 (tt, J=11.37, 3.84 Hz, 1H) 2.47 (s, 3H) 1.72-1.81 (m, 2H) 1.59-1.67 (m, 2H).

reactant | methyl 5-bromo-2-methyl-3-[(oxan-4-yl)amino]benzoate | 1.5 mmol, 500 mg | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCOCC1 | C14H18BrNO3
reactant | sodium tetrahydroborate | 26 mmol, 1000 mg | [BH4-].[Na+]
reactant | NaOH | 6M, 35 ml | [OH-].[Na+]
reactant | HCl | 1M, 20 ml | Cl | ClH
reactant | difluoroacetic acid | 15 ml | FC(C(=O)O)F | C2H2F2O2
product | methyl 5-bromo-3-[(2,2-difluoroethyl)(oxan-4-yl)amino]-2-methylbenzoate | 572 mg, 96% | BrC=1C=C(C(=C(C(=O)OC)C1)C)N(C1CCOCC1)CC(F)F | C16H20BrF2NO3
